US06103708
1-Methyl-1H-pyrazole-4-sulfonic acid 4-[2-(4-bromo-benzyl)-4,5-dimethyl-thiophene-3-carbonyl]-2-cyclopentyl-phenyl ester
At ambient temperature, to a stirred solution of [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone (0.283 g, 0.603 mmol) in N,N-DMF (3.0 mL) was added 60% sodium hydride/mineral oil (24.1 mg, 0.603 mmol). After 0.5 h, to the reaction was added a solution of 1-methyl-1H-pyrazole-4-sulfonyl chloride (0.120 g, 0.664 mmol) in N,N-DMF (1.3 mL). After 3 h, the reaction was quenched with 1N NaOH (40 mL), extracted with CH2Cl2, dried (Na2SO4) and concentrated. Purification on Biotage KP-Sil eluting with 20% acetone/hexane gave 0.202 g (55%) of the title compound as a yellow solid, mp 55-60° C. (DMSO-d6) δ 1.29-1.34 (m, 2 H), 1.59-1.79 (m, 6 H), 1.81 (s, 3 H), 2.28 (s, 3 H), 3.08 (quintet, 1 H), 3.87 (s, 2 H), 3.89 (s, 3 H), 6.98 (d, 2 H), 7.32 (d, 1 H), 7.39 (d, 2 H), 7.53-7.57 (m, 2 H), 7.97 (s, 1 H), 8.62 (s, 1 H). IR (KBr) 3450, 2950, 1650, 1490, 1400, 1370 and 1170 cm-1. mass spectrum (+ESI) m/z 613/615 (M+H).

reactant | [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 0.603 mmol, 0.283 g | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)O)C2CCCC2)C)C)C=C1 | C25H25BrO2S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-methyl-1H-pyrazole-4-sulfonyl chloride | 0.664 mmol, 0.120 g | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | 1-Methyl-1H-pyrazole-4-sulfonic acid 4-[2-(4-bromo-benzyl)-4,5-dimethyl-thiophene-3-carbonyl]-2-cyclopentyl-phenyl ester | 0.202 g, 55% | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)OS(=O)(=O)C=2C=NN(C2)C)C2CCCC2)C)C)C=C1 | C29H29BrN2O4S2
